US05057158
C. 2,2,4-Trimethyl-3-cyclopentene-1-acetic acid ethyl ester (ethyl γ-campholenate)
A solution containing a mixture (99 g) of γ-campholenic acid (56%) and α-campholenic acid (43%), p-toluenesulfonic acid (2 g), ethanol (750 ml) and heptane (750 ml) was kept at reflux (71° C.) for 16 hours, while the condensate was perculated through a layer of molecular sieves (3 Å) (100 g). The solvent was then removed, the residue taken up in CH2Cl2 (1 liter) and the solution extracted with ice cold 5% aqueous sodium hydroxide (1 liter) and water (2×500 ml). Concentration of the dried CH2Cl2 solution gave a crude oil (115 g), which was distilled through a 9" glass packed column to give 95 g of a colorless liquid; bp 73°-75° C. @ 1.5 mm Hg analysis: (CW 20M fused silica column, 120°-190° C.; 5° C./min.) 60% ethyl γ-campholenate and 40% ethyl α-campholenate; odor: fruity, berry; flavor: sweet, fruity, berry.

reactant | α-campholenic acid | CC1=CCC(C1(C)C)CC(=O)O | C10H16O2
reactant | p-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | 750 ml | C(C)O | C2H6O
solvent | heptane | 750 ml | CCCCCCC | C7H16
product | 2,2,4-Trimethyl-3-cyclopentene-1-acetic acid ethyl ester | 95 g | C(C)OC(CC1C(C=C(C1)C)(C)C)=O | C12H20O2
